US08486967B2
(4-Benzyl-6-methyl-pyrimidin-2-yl)-[1-(3-bromo-[1,2,4]thiadiazol-5-yl)-piperidin-4-yl]-amine
A solution of (4-benzyl-6-methyl-pyrimidin-2-yl)-piperidin-4-yl-amine hydrochloride (125 mg, 0.39 mmol), 3-bromo-5-chloro-[1,2,4]thiadiazol (39 mg, 0.19 mmol) and N,N-diisopropylethyl amine (66 L, 0.39 mmol) in tetrahydrofurane (3 mL) was heated to 95° C. 4.5 hours. The reaction was diluted with water and extracted twice with ethyl acetate. The combined organic layers were washed with saturated aqueous NaCl solution, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using a gradient from CH2Cl2 to CH2Cl2/MeOH 19:1 (v/v) as eluent. The title compound was obtained as a colorless oil (84 mg, 96%).

reactant | (4-benzyl-6-methyl-pyrimidin-2-yl)-piperidin-4-yl-amine hydrochloride | 0.39 mmol, 125 mg | Cl.C(C1=CC=CC=C1)C1=NC(=NC(=C1)C)NC1CCNCC1
reactant | 3-bromo-5-chloro-[1,2,4]thiadiazol | 0.19 mmol, 39 mg | BrC1=NSC(=N1)Cl | C2BrClN2S
reactant | N,N-diisopropylethyl amine | 0.39 mmol, 66 L | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofurane | 3 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (4-Benzyl-6-methyl-pyrimidin-2-yl)-[1-(3-bromo-[1,2,4]thiadiazol-5-yl)-piperidin-4-yl]-amine | C(C1=CC=CC=C1)C1=NC(=NC(=C1)C)NC1CCN(CC1)C1=NC(=NS1)Br | C19H21BrN6S
